US04997972
To a 200-ml flask were added 40 ml of DMF, 20 g (0.0677 mole) of 2-acetylamino-5-chloroiodobenzene, 5.85 g (0.0812 mole) of acrylic acid, 7.77 g (0.0947 mole) of anhydrous sodium acetate, 10 mg of palladium chloride and 30 mg of triphenylphosphine. This mixture was stirred at 115° C. for 5 hours and poured into 200 ml of water, and then a large amount of crystal precipitated. Sodium hydroxide was added to this aqueous solution containing the crystal while stirring the solution as it was, until the pH of the solution became 9.0. Then, the crystal dissolved in the solution to obtain a uniform solution. Thereafter, 2 g of activated carbon was added to the solution, and after stirring at room temperature for 15 minutes, the insoluble matter was filtered off. The filtrate was acidified to a pH of 1.5 with conc. hydrochloric acid, and then white crystal precipitated. This crystal was filtered off and vacuum-dried to obtain 13.9 g of 2-acetylamino-5-chlorocinnamic acid. The yield was 85.2% of the theoretical value, and the melting point was 243° to 245° C. The 1H-NMR and IR of this compound were as follows:

reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | 2-acetylamino-5-chloroiodobenzene | 0.0677 mole, 20 g | C(C)(=O)NC1=C(C=C(C=C1)Cl)I | C8H7ClINO
reactant | acrylic acid | 0.0812 mole, 5.85 g | C(C=C)(=O)O | C3H4O2
reactant | sodium acetate | 0.0947 mole, 7.77 g | C(C)(=O)[O-].[Na+]
catalyst | palladium chloride | 10 mg | [Pd](Cl)Cl
catalyst | triphenylphosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 200 ml | O | H2O
product | 2-acetylamino-5-chlorocinnamic acid | 13.9 g, yield was 85.2% | C(C)(=O)NC1=C(C=CC(=O)O)C=C(C=C1)Cl | C11H10ClNO3
